US05219734
Coumarin-7-oxybutyric acid N-hydroxysuccinimide ester was prepared by reacting 7-hydroxycoumarin with ethyl 4-bromobutyrate to form coumarin-7-oxybutyric acid ethyl ester. Next, the ethyl ester was reacted with acid to form coumarin-7-oxybutyric acid which was reacted with N-hydroxysuccinimide to form the N-hydroxysuccinimide ester in accordance with the Scheme 1 above.

reactant | 7-hydroxycoumarin | OC1=CC=C2C=CC(OC2=C1)=O | C9H6O3
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
product | coumarin-7-oxybutyric acid ethyl ester | C(C)OC(C(CC)OC1=CC=C2C=CC(OC2=C1)=O)=O | C15H16O5
